US04946843
To a stirred solution of 3.6 parts of N-(2-pyrazinylmethyl)-1,2-pyridinediamine in 30 parts of acetic acid were added 4.24 parts of ethyl 2-chloroethanimidate monohydrochloride. The reaction mixture was stirred first for 21 hours at room temperature and then for a few minutes at 90° C. The whole was evaporated and the residue was taken up in water. The aqueous layer was treated with sodium carbonate and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding 3.9 parts (100%) of 2-(chloromethyl)-3-(2-pyrazinylmethyl)-3H-imidazo[4,5-b]pyridine as a residue (int. 29).

reactant | N-(2-pyrazinylmethyl)-1,2-pyridinediamine | N1=C(C=NC=C1)CNN1C(C=CC=C1)N | C10H13N5
reactant | ethyl 2-chloroethanimidate monohydrochloride | Cl.ClCC(OCC)=N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(chloromethyl)-3-(2-pyrazinylmethyl)-3H-imidazo[4,5-b]pyridine | 100% | ClCC1=NC=2C(=NC=CC2)N1CC1=NC=CN=C1 | C12H10ClN5
